US08389508B2
To a solution of 3-bromo-5-chloro-1,2,4-thiadiazole (558 mg), {3-chloro-4-[(1-methylethyl)oxy]phenyl}boronic acid (300 mg) and tripotassium phosphate (148 mg) in N,N-dimethylformamide (DMF) (3 mL) and water (0.600 mL) under nitrogen was added PdCl2(dppf)-CH2Cl2 adduct (3.427 g). The reaction vessel was sealed and heated under microwave at 80° C. for 1 h. After cooling the reaction, the mixture was filtered and the filtrate was diluted with ethyl acetate (50 mL), washed with brine (2*10 mL), dried over sodium sulphate, concentrated and purified by column chromatography to afford 3-bromo-5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazole (D43) (450 mg) as a clear oil. MS (ES): C11H10BrClN2OS requires 332. found 333.0 (M+H+).

reactant | 3-bromo-5-chloro-1,2,4-thiadiazole | 558 mg | BrC1=NSC(=N1)Cl | C2BrClN2S
reactant | {3-chloro-4-[(1-methylethyl)oxy]phenyl}boronic acid | 300 mg | ClC=1C=C(C=CC1OC(C)C)B(O)O | C9H12BClO3
reactant | tripotassium phosphate | 148 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | 0.600 mL | O | H2O
catalyst | PdCl2(dppf) CH2Cl2 | 3.427 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 3-bromo-5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazole | 450 mg | BrC1=NSC(=N1)C1=CC(=C(C=C1)OC(C)C)Cl | C11H10BrClN2OS
